.SUBCKT HPM_CHARGE_MP N+ N-
.PARAM XO=0.9999
.PARAM MU=10F
.PARAM ROFF=1100
.PARAM RON=1
.PARAM DELTA=10N
.PARAM KAPPA='(MU*RON)/(DELTA*DELTA)'
.PARAM DR='ROFF-RON'

* INTEGRADOR DE CARGA
BINT 0 CHARGE I='I(RMEM)'
CINT CHARGE 0 1
RINT CHARGE 0 1G

* RESISTENCIA DEPENDIENTE DE CARGA (Traducción directa de Maple)
RMEM N+ N- R='(V(CHARGE) <= 0) ? 
+ ( -DR*XO*(XO+1)*EXP(4*KAPPA*V(CHARGE)) + DR*XO**2*EXP(8*KAPPA*V(CHARGE)) + ROFF ) : 
+ ( -(XO-1)**2*DR*EXP(-8*KAPPA*V(CHARGE)) + (XO-1)*(XO-2)*DR*EXP(-4*KAPPA*V(CHARGE)) + RON )'

.ENDS